US09169261B2
To a solution of (S)-5-(prop-1-en-2-yl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.090 g, 0.26 mmol, 1 eq) in 1 mL of MeOH was added 10% Pd/C (0.027 g, 0.03 mmol, 0.1 eq). The reaction mixture was equipped with a H2 balloon and stirred for 1 hr at room temperature. The contents were filtered and the purified by HPLC to afford (S)-5-isopropyl-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide (0.048 g, 0.14 mmol, 53%). 1H NMR (400 MHz, CD3OD) δ 8.81 (s, 2 H), 7.76 (s, 1 H), 7.71 (d, J=5.8 Hz, 1 H), 7.55 (s, 1 H), 6.92 (s, 1 H), 6.84 (d, J=5.9 Hz, 1 H), 5.00-3.60 (br, 5 H), 3.18-3.00 (m, 1 H), 2.65-2.30 (br, 2 H), 1.36 (d, J=7.0 Hz, 6 H); MS: (ES) m/z calculated for C19H22N6O [M+H]+ 351.2, found 351.

reactant | (S)-5-(prop-1-en-2-yl)-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.26 mmol, 0.090 g, 1 eq | C=C(C)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C19H20N6O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | Pd/C | 0.03 mmol, 0.027 g, 0.1 eq | [Pd] | Pd
product | (S)-5-isopropyl-N-(1-(pyrrolo[1,2-a]pyrazin-1-yl)pyrrolidin-3-yl)pyrimidine-2-carboxamide | 0.14 mmol, 0.048 g, 53% | C(C)(C)C=1C=NC(=NC1)C(=O)N[C@@H]1CN(CC1)C=1C=2N(C=CN1)C=CC2 | C19H22N6O
